US06437139B1
4-Chloro-2-Ethoxycarbonyl-3,5-Lutidine (1 eq.) was suspended in 10% sodium hydroxide aqueous solution (4 eq.), the mixture was stirred and heated to 80ℑ C. After 4 hours a homogeneoussolution was obtained. The solution was washed with toluene and then acidified to pH 2.5. The white precipitate was extracted with dichloromethane (3×5 volumes). The combined organic extracts were dried over sodium sulfate, filtered and the solvent was evaporated under vacuum. The 2-carboxy-4-chloro-3,5-lutidine product was obtained as an off white solid in 85% yield.

reactant | 4-Chloro-2-Ethoxycarbonyl-3,5-Lutidine | 1 eq. | ClC1=C(C(=NC=C1C)C(=O)OCC)C | C10H12ClNO2
reactant | sodium hydroxide | 4 eq. | [OH-].[Na+]
product | 2-carboxy-4-chloro-3,5-lutidine | 85% yield | C(=O)(O)C1=NC=C(C(=C1C)Cl)C | C8H8ClNO2
